US03983130
15.4 g of 4-nitro-2-aminophenol is dissolved in 250 ml of ethanol and to this solution 9.6 g of furaldehyde is added to room temperature. The reaction is allowed to stir at room temperature for 0.25 hr and the precipitated crystals are collected. The resulting Schiff Base is then dissolved in 250 ml of glacial acetic acid, treated with 44 g of lead tetraacetate and then refluxed for 2 hr. The mixture is then diluted with 250 ml of water and the precipitated product is collected and washed with water. Recrystallization from 150 ml of CH2Cl2 yields 10.1 g of 5-nitro-2-(2-furyl)benzoxazole, mp 175°-177°.

reactant | 4-nitro-2-aminophenol | 15.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)N | C6H6N2O3
reactant | furaldehyde | 9.6 g | O1C(=CC=C1)C=O | C5H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-nitro-2-(2-furyl)benzoxazole | 10.1 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C=2OC=CC2)C1 | C11H6N2O4
